US07935716B2
197 mg of ethyl 5-chloro-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxylate and 76 mg of 2-amino-1,3,4-thiadiazole were added to 2 ml of bromobenzene, then, the mixture was stirred for 5 hours under heat refluxing condition. The reaction mixture was cooled to room temperature, then, to the reaction mixture was added n-hexane. The resulting solid was collected by filtration, and washed with a mixture of t-butyl methyl ether and n-hexane and dried to obtain 183 mg of N-(1,3,4-thiadiazol-2-yl)-5-chloro-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxamide (hereinafter, referred to as present compound 14) represented by the formula:

reactant | ethyl 5-chloro-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxylate | 197 mg | ClC=1C(=C(C(N(C1C)C)=O)C(=O)OCC)O | C10H12ClNO4
reactant | 2-amino-1,3,4-thiadiazole | 76 mg | NC=1SC=NN1 | C2H3N3S
reactant | bromobenzene | 2 ml | BrC1=CC=CC=C1 | C6H5Br
solvent | n-hexane | CCCCCC | C6H14
product | N-(1,3,4-thiadiazol-2-yl)-5-chloro-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxamide | 183 mg | S1C(=NN=C1)NC(=O)C=1C(N(C(=C(C1O)Cl)C)C)=O | C10H9ClN4O3S
